US07723333B2
Methyl 2-{2-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethoxy}benzoate
2-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl 4-methylbenzenesulfonate (150 mg, 0.313 mmol) was dissolved in dry MeCN (3 mL) under nitrogen atmosphere. Methyl salicylate (52 mg, 0.345 mmol) was added followed by potassium carbonate (217 mg, 1.567 mmol). The reaction mixture was heated in a microwave reactor at 120° C. for 20 mins. Potassium carbonate was filtered off and the reaction mixture was evaporated to dryness in a vacuum centrifuge. The crude product was purified by preparative HPLC affording the title compound (9 mg, 6%). 1H NMR (CDCl3, 500 MHz): δ 1.74 (s, 9H), 3.27 (q, 2H), 3.97-4.00 (m, 5H), 6.17 (t, 1H), 6.86 (d, 1H), 7.05 (t, 1H), 7.44-7.48 (m, 4H), 7.52-7.56 (m, 2H), 7.85 (dd, 1H); 13C NMR (CDCl3, 125 MHz): δ 27.85, 43.53, 52.52, 61.69, 67.49, 107.84, 114.40, 121.12, 121.69, 125.42, 129.00, 129.85, 131.69, 132.27, 133.85, 135.56, 158.01, 159.56, 166.79; Mass Spectrum: M+H+ 459.0.

reactant | 2-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl 4-methylbenzenesulfonate | 0.313 mmol, 150 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C22H26N2O6S2
reactant | Methyl salicylate | 0.345 mmol, 52 mg | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | potassium carbonate | 1.567 mmol, 217 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeCN | 3 mL | CC#N | C2H3N
product | Methyl 2-{2-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethoxy}benzoate | 9 mg, 6% | C(C)(C)(C)N1S(C(=C(C1=O)NCCOC1=C(C(=O)OC)C=CC=C1)C1=CC=CC=C1)(=O)=O | C23H26N2O6S
